US07601716B2
1-Benzyl-7-[3-(pyrrolidine-1-carbonyl)phenyl]-3,4-dihydro-1H-pyrido[2,3-b]pyrazin-2-one
3-(1-Benzyl-2-oxo-1,2,3,4-tetrahydropyrido[2,3-b]pyrazin-7-yl)benzoic acid (31 mg) was coupled to pyrrolidine as in General Procedure 8 to give the title compound as a yellow solid (47% yield). LCMS: m/z=413.30 (M+H+), 1H-NMR (CD3OD, 400 MHz) δ 1.92 (2H, m), 2.02 (2H, m), 3.36 (1H, m), 3.40 (2H, t, J=6.6 Hz), 3.62 (2H, t, J=6.9 Hz), 4.49 (2H, s), 4.91 (1H, s), 5.36 (2H, s), 7.29 (1H, m), 7.37 (2H, d, J=1.8 Hz), 7.39 (2H, s), 7.49 (1H, s), 7.52 (3H, s), 7.53 (1H, d, J=1.5 Hz), 7.84 (1H, d, J=1.5 Hz).

reactant | 3-(1-Benzyl-2-oxo-1,2,3,4-tetrahydropyrido[2,3-b]pyrazin-7-yl)benzoic acid | 31 mg | C(C1=CC=CC=C1)N1C2=C(NCC1=O)N=CC(=C2)C=2C=C(C(=O)O)C=CC2 | C21H17N3O3
reactant | pyrrolidine | N1CCCC1 | C4H9N
product | 1-Benzyl-7-[3-(pyrrolidine-1-carbonyl)phenyl]-3,4-dihydro-1H-pyrido[2,3-b]pyrazin-2-one | 47% yield | C(C1=CC=CC=C1)N1C2=C(NCC1=O)N=CC(=C2)C2=CC(=CC=C2)C(=O)N2CCCC2 | C25H24N4O2
